US04006145
170.5 g of 3-nitro-6-(phenylthio)-benzyl alcohol are suspended in 54.5 ml of pyridine and 170 ml of chloroform and treated dropwise at a temperature below 20° C over a period of 30 minutes with a solution of 78g of thionyl chloride in 55 ml of chloroform. The mixture is stirred for 30 minutes at 30° C and subsequently diluted with water. The organic phase is washed successively with water and aqueous sodium bicarbonate solution, dried over magnesium sulphate and concentrated. There is obtained crude 3-nitro-6-(phenylthio)-benzyl chloride of melting point 58° - 60° C.

reactant | 3-nitro-6-(phenylthio)-benzyl alcohol | 170.5 g | [N+](=O)([O-])C=1C=C(CO)C(=CC1)SC1=CC=CC=C1 | C13H11NO3S
reactant | thionyl chloride | S(=O)(Cl)Cl | Cl2OS
solvent | pyridine | 54.5 ml | N1=CC=CC=C1 | C5H5N
solvent | chloroform | 55 ml | C(Cl)(Cl)Cl | CHCl3
solvent | water | O | H2O
solvent | chloroform | 170 ml | C(Cl)(Cl)Cl | CHCl3
product | 3-nitro-6-(phenylthio)-benzyl chloride | [N+](=O)([O-])C=1C=C(CCl)C(=CC1)SC1=CC=CC=C1 | C13H10ClNO2S
